US06037495
Synthesis of (E)-2-methoxyimino-2-(2-(2,5-dimethylphenoxymethyl)phenyl)-N-methylacetamide--(2)
A mixture of (E)-2-(2-chloromethylphenyl)-2-methoxyimino-N-methylacetamide (500 mg), 2,5-dimethylphenol (700 mg), potassium carbonate (700 mg) and acetone (5.0 ml) was stirred in a sealed tube at 60° C. for 45 hours. After the mixture was cooled by allowing it to stand, ethyl acetate was added thereto. The mixture was washed successively with water and saturated brine. The organic layer was dried over anhydrous sodium sulfate and concentrated to dryness under reduced pressure. The resulting residue was subjected to column chromatography on silica gel (ethyl acetate:hexane=1:2) to obtain the title compound (360 mg, 53%). In this chromatographic separation, some of the starting compound was recovered.

reactant | (E)-2-(2-chloromethylphenyl)-2-methoxyimino-N-methylacetamide | 500 mg | ClCC1=C(C=CC=C1)\C(\C(=O)NC)=N/OC | C11H13ClN2O2
reactant | 2,5-dimethylphenol | 700 mg | CC1=C(C=C(C=C1)C)O | C8H10O
reactant | potassium carbonate | 700 mg | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 5.0 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-2-methoxyimino-2-(2-(2,5-dimethylphenoxymethyl)phenyl)-N-methylacetamide | 360 mg, 53% | CO\N=C(\C(=O)NC)/C1=C(C=CC=C1)COC1=C(C=CC(=C1)C)C | C19H22N2O3
